US08957074B2
Following general amide formation method 1, 3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (170 mg, 0.751 mmol, 1.1 eq) was combined with 6-amino-nicotinic acid (94 mg, 0.683 mmol, 1.0 eq) which gave 3-(6-amino-pyridine-3-carbonyl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (170 mg) in 72% yield. 1H NMR (400 MHz, CDCl3-d) δ ppm 1.50 (s, 9H) 1.55-1.72 (m, 2H) 1.74-1.98 (m, 4H) 3.20 (qd, J=7.41, 4.55 Hz, 3H) 3.65-3.82 (m, J=13.20, 6.66, 6.66, 4.29 Hz, 2H) 4.18 (br. s., 1H) 4.28 (br. s., 1H) 4.66 (br. s., 1H) 4.85 (br. s., 1H) 6.58 (d, J=8.59 Hz, 1H) 7.57 (dd, J=8.59, 2.02 Hz, 1H) 8.04 (s, 1H) 8.16 (d, J=2.02 Hz, 1H) MS m/z 291.4 (M+H)+.

reactant | 3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 0.751 mmol, 170 mg, 1.1 eq | C(C)(C)(C)OC(=O)N1C2CNCC1CCC2 | C12H22N2O2
reactant | 6-amino-nicotinic acid | 0.683 mmol, 94 mg, 1.0 eq | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
product | 3-(6-amino-pyridine-3-carbonyl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 170 mg, 72% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CCC2)C(=O)C=2C=NC(=CC2)N | C18H26N4O3
